US05731322
(±)-trans-2-Benzylaminocarbonyl-3,6-dimethyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline
1 g (3.3 mmol) of (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride, 2.95 g (10 mmol) of N-benzyl-2-phenylhydrazono-3-oxobutyramide, 0.82 g (10 mmol) of CH3 COONa, 2.6 g (40 mmol) of zinc dust and 5 ml of glacial acetic acid were treated as described in example 1. The residue was crystallised from AcOEt yielding 0.65 g of the title compound. M. p.=162°-164° C.

reactant | (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 3.3 mmol, 1 g | Cl.C(C)N1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)=O
reactant | N-benzyl-2-phenylhydrazono-3-oxobutyramide | 10 mmol, 2.95 g | C(C1=CC=CC=C1)NC(C(C(C)=O)=NNC1=CC=CC=C1)=O | C17H17N3O2
catalyst | zinc | 40 mmol, 2.6 g | [Zn] | Zn
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (±)-trans-2-Benzylaminocarbonyl-3,6-dimethyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline | C(C1=CC=CC=C1)NC(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)C)C2=CC(=CC=C2)OC)N1)C | C28H33N3O2
